US04134890
To a solution of 10 parts of 2-[2-(diisopropylamino)ethyl]-2-phenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyramide in 350 parts by volume of ether is added dropwise with stirring 2 molar equivalents of hydrochloric acid in isopropyl alcohol. The mixture is stirred for about 2 hours when the resulting salt is separated by filtration to afford 2-[2-(diisopropylamino)ethyl]-2-phenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyramide dihydrochloride.

reactant | 2-[2-(diisopropylamino)ethyl]-2-phenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyramide | C(C)(C)N(CCC(C(=O)N)(CCN1CC2CCC(C1)CC2)C2=CC=CC=C2)C(C)C | C26H43N3O
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 2-[2-(diisopropylamino)ethyl]-2-phenyl-4-(3-azabicyclo[3.2.2]non-3-yl)butyramide dihydrochloride | Cl.Cl.C(C)(C)N(CCC(C(=O)N)(CCN1CC2CCC(C1)CC2)C2=CC=CC=C2)C(C)C | InChI=1S/C26H43N3O.2ClH/c1-20(2)29(21(3)4)17-15-26(25(27)30,24-8-6-5-7-9-24)14-16-28-18-22-10-11-23(19-28)13-12-22;;/h5-9,20-23H,10-19H2,1-4H3,(H2,27,30);2*1H
